US06284785B1
(RS)-2-(3-Chloro-4-fluoro-phenyl)-1-(4-fluoro-benzenesulfonyl)-pyrrolidine
The title compound, white solid, m.p. 116° C. and MS: m/e=358.1 (M+) was prepared in accordance with the general method of example 1e from (RS)-2-(3-chloro-4-fluoro-phenyl)-pyrrolidine and 4-fluoro-benzenesulfonyl chloride.

reactant | (RS)-2-(3-chloro-4-fluoro-phenyl)-pyrrolidine | ClC=1C=C(C=CC1F)C1NCCC1 | C10H11ClFN
reactant | 4-fluoro-benzenesulfonyl chloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | (RS)-2-(3-Chloro-4-fluoro-phenyl)-1-(4-fluoro-benzenesulfonyl)-pyrrolidine | ClC=1C=C(C=CC1F)C1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)F | C16H14ClF2NO2S
